US06194447B1
2-Nitro-N-(4-phenylthiazol-2-yl)aniline.
A mixture of 2-amino-4-phenylthiazole (12.5 g, 80.9 mmol), 1-fluoro-2-nitrobenzene (12.5 g, 89.0 mmol), potassium carbonate (13.4 g, 97.1 mmol) was stirred at 150° C. for 24 h. Water (100 ml) was added and the mixture was extracted twice with 1,2-dichloroethane (50 ml). The crude extract was purified by chromatography on silica gel using toluene as eluent. The product was isolated as the free base. Yield 7.95 g, 33%. M.p.114-116° C.

reactant | 2-amino-4-phenylthiazole | 80.9 mmol, 12.5 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | 1-fluoro-2-nitrobenzene | 89.0 mmol, 12.5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 97.1 mmol, 13.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | 100 ml | O | H2O
product | 2-Nitro-N-(4-phenylthiazol-2-yl)aniline | [N+](=O)([O-])C1=C(NC=2SC=C(N2)C2=CC=CC=C2)C=CC=C1 | C15H11N3O2S
